US07196100B2
6-(4-Benzylamino-cyclohexyloxy)-nicotinonitrile
Add dropwise a solution of 4-benzylamino-cyclohexanol (675 mg, 3.28 mmol) in DMF (2 mL) to a suspension of NaH (196 mg, 4.92 mmol) in DMF (3 mL). Stir at room temperature for 45 min then at 50° C. for additional 40 min. Add a solution of 6-chloro-nicotinonitrile (500 mg, 3.61 mmol) in DMF (1.8 mL) dropwise and stir overnight at 60° C. Cool down the reaction mixture and evaporate the solvent. Wash the residue with water (10) and extract with EtOAc/hex (2/1, 15 mL). Combine the organic layers and dry over sodium sulfate. Filter and concentrate. Purify the resulting residue through an SCX column. Further purified by chromatography [CH2Cl2/NH3 (2.0M in methanol) 20/1] to provide the title compound (890 mg, 88%).

reactant | 4-benzylamino-cyclohexanol | 3.28 mmol, 675 mg | C(C1=CC=CC=C1)NC1CCC(CC1)O | C13H19NO
reactant | NaH | 4.92 mmol, 196 mg | [H-].[Na+]
reactant | 6-chloro-nicotinonitrile | 3.61 mmol, 500 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 6-(4-Benzylamino-cyclohexyloxy)-nicotinonitrile | 890 mg, 88% | C(C1=CC=CC=C1)NC1CCC(CC1)OC1=NC=C(C#N)C=C1 | C19H21N3O
